US04698340
To a solution of ethyl 4-methyl-2-phenyl-6-(4-pyridyl)-1,6-dihydro-5-pyrimidinecarboxylate (13.4 g) in chloroform (300 ml) was added activated manganese dioxide (53.6 g) and the mixture was refluxed for two hours with stirring vigorously. After allowing to cool to room temperature, manganese dioxide was filtered off. The filtrate was evaporated in vacuo and the residual precipitate was recrystallized from a mixture of ether (80 ml) and petroleum ether (40 ml). The crystal was filtered off, washed with ether and dried in vacuo to give ethyl 6-methyl-2-phenyl-4-(4-pyridyl)-5-pyrimidinecarboxylate (7.5 g).

reactant | ethyl 4-methyl-2-phenyl-6-(4-pyridyl)-1,6-dihydro-5-pyrimidinecarboxylate | 13.4 g | CC=1N=C(NC(C1C(=O)OCC)C1=CC=NC=C1)C1=CC=CC=C1 | C19H19N3O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 53.6 g | [O-2].[O-2].[Mn+4]
product | ethyl 6-methyl-2-phenyl-4-(4-pyridyl)-5-pyrimidinecarboxylate | 7.5 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC=NC=C1)C(=O)OCC | C19H17N3O2
